US05356897
A mixture of 3-(1-acetyl-1,2-dihydro-2-methylpyridin-4-yl)-2-(4-fluorophenyl)pyrazolo[1,5-a]pyrimidine (315 mg) and sulfur (146 mg) in decaline (3 ml) was stirred at 190° C. for 2 hours. The reaction mixture was cooled and purified by column chromatography on silica gel to give 2-(4-fluorophenyl)-3-(2-methylpyridin-4-yl)pyrazolo[1,5-a]pyrimidine (135 mg) as crystals.

reactant | 3-(1-acetyl-1,2-dihydro-2-methylpyridin-4-yl)-2-(4-fluorophenyl)pyrazolo[1,5-a]pyrimidine | 315 mg | C(C)(=O)N1C(C=C(C=C1)C=1C(=NN2C1N=CC=C2)C2=CC=C(C=C2)F)C | C20H17FN4O
reactant | sulfur | 146 mg | [S] | S
solvent | decaline | 3 ml | C1CCCC2CCCCC12 | C10H18
product | 2-(4-fluorophenyl)-3-(2-methylpyridin-4-yl)pyrazolo[1,5-a]pyrimidine | 135 mg | FC1=CC=C(C=C1)C1=NN2C(N=CC=C2)=C1C1=CC(=NC=C1)C | C18H13FN4
